US08309550B2
3-(4-(1-Ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)benzonitrile (Compound 20)
Prepared by treatment of (E)-3-(dimethylamino)-1-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one and 1-(3-cyanophenyl)guanidine hydrochloride. 1H-NMR (DMSO-d6) δ: 1.48 (t, 3H, J=7.2 Hz, CH3), 4.39 (q, 2H, J=7.2 Hz, CH2), 7.27 (m, 1H, Ar—H), 7.36 (d, 1H, J=4.4 Hz, Pyrimidin-H), 7.42 (m, 1H, Ph-H or Ar—H), 7.51 (m, 1H, Ph-H or Ar—H), 7.98 (m, 1H, Ar—H), 8.38 (m, 1H, Ph-H or Ar—H), 8.46 (m, 2H, Pyrimidin-H or Ar—H), 8.63 (s, 1H, Ar—H), 8.94 (m, 1H, Ph-H or Ar—H), 9.85 (s, 1H, NH). MS (ESI+) m/z 341.1489 (M+H)+.

reactant | (E)-3-(dimethylamino)-1-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CN(C2=NC=CC=C21)CC)C | C14H17N3O
reactant | 1-(3-cyanophenyl)guanidine hydrochloride | Cl.C(#N)C=1C=C(C=CC1)NC(=N)N
product | 3-(4-(1-Ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)benzonitrile | C(C)N1C=C(C=2C1=NC=CC2)C2=NC(=NC=C2)NC=2C=C(C#N)C=CC2 | C20H16N6
